US05648373
A mixture of 1-(8-cyanooctyl)-2,4,5-triphenyl-imidazole (0.8 g), concentrated sulphuric acid (10 ml) and water (10 ml) was stirred at reflux for 4 h. Water (50 ml) was added to the cooled mixture and the mixture was extracted with ethyl acetate (2×25 ml). The organic extracts were combined, washed with water (25 ml), dried over anhydrous magnesium sulphate and evaporated to dryness in vacuo. Recrystallisation from ethanol/water gave 1-(8-carboxyoctyl)-2,4,5-triphenylimidazole (0.22 g, 26%) as a cream solid, m.p. 149°-150° C.; Found C: 79.32; H, 7.17; N, 5.95%; C30H32N2 requires: C, 79.61; H, 7.13; N, 6.19%.

reactant | 1-(8-cyanooctyl)-2,4,5-triphenyl-imidazole | 0.8 g | C(#N)CCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H31N3
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | Water | 50 ml | O | H2O
reactant | water | 10 ml | O | H2O
product | 1-(8-carboxyoctyl)-2,4,5-triphenylimidazole | 0.22 g, 26% | C(=O)(O)CCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H32N2O2
